US06417203B1
2,2,2-Trifluoro-N-(2-methoxyethyl)-N-[3-(2-{[5-methyl-4-(2-{[(3-methyl-1H-indol-5-yl)methyl]amino}-2-oxoethyl)-3-oxo-3,4-dihydro-2-pyrazinyl]amino}ethyl)benzyl]acetamide
Hydroxybenzotriazole hydrate (60 mg, 0.44 mmol) and WSCDl.HCl (93 mg, 0.47 mmol) were added to a solution of 2-[3-[(3-{[(2-methoxyethyl)(2,2,2-trifluoroacetyl)amino]methyl}phenethyl)amino]-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid (190 mg, 0.40 mmol) [see preparation 44] in N,N-dimethylformamide (3.0 ml). N-methylmorpholine (123 mg, 1.2 mmol) was added followed by (3-methyl-1H-indol-5-yl)methylamine (72 mg, 0.45 mmol) [see preparation 36]. The reaction mixture was stirred at room temperature for 18 hrs, after which time the mixture was partitioned between ethyl acetate (30 ml) and water (30 ml). The organic layer was washed with water (3×30 ml), brine (30 ml) and dried over MgSO4 and the solvent evaporated under reduced pressure. The crude product was purified by column chromatography on silica gel using an elution gradient of dichloromethane:methanol:0.88 ammonia (99:1:0.1) changing to (98:2:0.2) to afford the title compound as a oil, 113 mg (53%).

reactant | Hydroxybenzotriazole hydrate | 0.44 mmol, 60 mg | O.OC1=CC=CC=2NN=NC21
reactant | HCl | 0.47 mmol, 93 mg | Cl | ClH
reactant | 2-[3-[(3-{[(2-methoxyethyl)(2,2,2-trifluoroacetyl)amino]methyl}phenethyl)amino]-6-methyl-2-oxo-1(2H)-pyrazinyl]acetic acid | 0.40 mmol, 190 mg | COCCN(C(C(F)(F)F)=O)CC=1C=C(CCNC=2C(N(C(=CN2)C)CC(=O)O)=O)C=CC1 | C21H25F3N4O5
reactant | N-methylmorpholine | 1.2 mmol, 123 mg | CN1CCOCC1 | C5H11NO
reactant | (3-methyl-1H-indol-5-yl)methylamine | 0.45 mmol, 72 mg | CC1=CNC2=CC=C(C=C12)CN | C10H12N2
solvent | N,N-dimethylformamide | 3.0 ml | CN(C=O)C | C3H7NO
product | 2,2,2-Trifluoro-N-(2-methoxyethyl)-N-[3-(2-{[5-methyl-4-(2-{[(3-methyl-1H-indol-5-yl)methyl]amino}-2-oxoethyl)-3-oxo-3,4-dihydro-2-pyrazinyl]amino}ethyl)benzyl]acetamide | FC(C(=O)N(CC1=CC(=CC=C1)CCNC1=NC=C(N(C1=O)CC(=O)NCC=1C=C2C(=CNC2=CC1)C)C)CCOC)(F)F | C31H35F3N6O4
